US06355647B1
3,4,5,7-Tetrahydro-6-carbethoxy-3-[2-(4-(2-methoxyphenyl)-1-piperazinyl)ethyl]pyrrolo[3′,4′:4,5]thieno[2,3-d]pyrimidin-4-one
1.1 g (4.8 mM) of 1-(2-aminoethyl)-4-(2-methoxyphenyl)-piperazine were added to 1.6 g (4.8 mM) of 2-ethoxymethyleneamino-3,5-dicarbethoxy-4,6-dihydrothieno[3,2-c]pyrrole in 25 ml of ethanol and refluxed for 2 h. The mixture was then concentrated in a rotary evaporator, and the crude product was purified by column chromatography (silica gel, mobile phase methylene chloride/methanol 96/4). After recrystallization from ethyl acetate, 1.1 g (47%) of product were isolated with melting point 153-155° C.

reactant | 1-(2-aminoethyl)-4-(2-methoxyphenyl)-piperazine | 4.8 mM, 1.1 g | NCCN1CCN(CC1)C1=C(C=CC=C1)OC | C13H21N3O
reactant | 2-ethoxymethyleneamino-3,5-dicarbethoxy-4,6-dihydrothieno[3,2-c]pyrrole | 4.8 mM, 1.6 g | C(C)OC=NC1=C(C=2CN(CC2S1)C(=O)OCC)C(=O)OCC | C15H20N2O5S
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 3,4,5,7-Tetrahydro-6-carbethoxy-3-[2-(4-(2-methoxyphenyl)-1-piperazinyl)ethyl]pyrrolo[3′,4′:4,5]thieno[2,3-d]pyrimidin-4-one | 1.1 g, 47% | C(=O)(OCC)N1CC2=C(SC=3N=CN(C(C32)=O)CCN3CCN(CC3)C3=C(C=CC=C3)OC)C1 | C24H29N5O4S
